### PR TITLE
[Merged by Bors] - feat(GroupTheory/SpecificGroups/Dihedral): Conjugacy classes in odd dihedral groups

### PR DESCRIPTION
**Pull request by tb65536**
This PR counts conjugacy classes in odd dihedral groups. The even case is a bit harder due to the half-rotation being central.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 1]
```diff
@@ -204,4 +204,43 @@ theorem exponent : Monoid.exponent (DihedralGroup n) = lcm n 2 := by
...
+  { toFun := fun p => match p.1.1, p.1.2 with
+      | sr i, r _ => Sum.inl i
+      | r _, sr j => Sum.inr (Sum.inl j)
+      | sr i, sr j => Sum.inr (Sum.inr (Sum.inl (i + j)))
+      | r i, r j => Sum.inr (Sum.inr (Sum.inr ⟨i, j⟩))
+    invFun := fun p => match p with
+      | Sum.inl i => ⟨⟨sr i, r 0⟩, congrArg sr ((add_zero i).trans (sub_zero i).symm)⟩
+      | Sum.inr (Sum.inl j) => ⟨⟨r 0, sr j⟩, congrArg sr ((sub_zero j).trans (add_zero j).symm)⟩
+      | Sum.inr (Sum.inr (Sum.inl k)) => ⟨⟨sr (u⁻¹ * k), sr (u⁻¹ * k)⟩, rfl⟩
+      | Sum.inr (Sum.inr (Sum.inr ⟨i, j⟩)) => ⟨⟨r i, r j⟩, congrArg r (add_comm i j)⟩
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:221]: Could use shorthand notation her
```suggestion
      | .inl i => ⟨⟨sr i, r 0⟩, congrArg sr ((add_zero i).trans (sub_zero i).symm)⟩
      | .inr (.inl j) => ⟨⟨r 0, sr j⟩, congrArg sr ((sub_zero j).trans (add_zero j).symm)⟩
      | .inr (.inr (.inl k)) => ⟨⟨sr (u⁻¹ * k), sr (u⁻¹ * k)⟩, rfl⟩
      | .inr (.inr (.inr ⟨i, j⟩)) => ⟨⟨r i, r j⟩, congrArg r (add_comm i j)⟩
```

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 2]
```diff
@@ -204,4 +204,43 @@ theorem exponent : Monoid.exponent (DihedralGroup n) = lcm n 2 := by
       exact (orderOf_sr 0).symm
 #align dihedral_group.exponent DihedralGroup.exponent
 
+/-- If n is odd, then the Dihedral group of order 2n has n*(n+3) pairs of commuting elements. -/
+def OddCommuteEquiv (hn : Odd n) : { p : DihedralGroup n × DihedralGroup n // Commute p.1 p.2 } ≃
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:208]:
```suggestion
@[simps]
def oddCommuteEquiv (hn : Odd n) : { p : DihedralGroup n × DihedralGroup n // Commute p.1 p.2 } ≃
```

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 3]
```diff
@@ -204,4 +204,43 @@ theorem exponent : Monoid.exponent (DihedralGroup n) = lcm n 2 := by
...
+    ZMod n ⊕ ZMod n ⊕ ZMod n ⊕ ZMod n × ZMod n :=
+  let u := ZMod.unitOfCoprime 2 (Nat.prime_two.coprime_iff_not_dvd.mpr hn.not_two_dvd_nat)
+  have hu : ∀ a : ZMod n, a + a = 0 ↔ a = 0 := fun a => ZMod.add_self_eq_zero_iff_eq_zero hn
+  { toFun := fun p => match p.1.1, p.1.2 with
+      | sr i, r _ => Sum.inl i
+      | r _, sr j => Sum.inr (Sum.inl j)
+      | sr i, sr j => Sum.inr (Sum.inr (Sum.inl (i + j)))
+      | r i, r j => Sum.inr (Sum.inr (Sum.inr ⟨i, j⟩))
+    invFun := fun p => match p with
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:217]:
```suggestion
    invFun := fun
```
`fun` is `match` too!

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 4]
```diff
@@ -204,4 +204,43 @@ theorem exponent : Monoid.exponent (DihedralGroup n) = lcm n 2 := by
...
+      | Sum.inr (Sum.inr (Sum.inr ⟨i, j⟩)) => ⟨⟨r i, r j⟩, congrArg r (add_comm i j)⟩
+    left_inv := by
+      rintro ⟨⟨i | i, j | j⟩, h⟩
+      · rfl
+      · simpa [sub_eq_add_neg, neg_eq_iff_add_eq_zero, hu, eq_comm (a := i) (b := 0)] using h.eq
+      · simpa [sub_eq_add_neg, eq_neg_iff_add_eq_zero, hu, eq_comm (a := j) (b := 0)] using h.eq
+      · replace h := r.inj h
+        rw [←neg_sub, neg_eq_iff_add_eq_zero, hu, sub_eq_zero] at h
+        rw [Subtype.ext_iff, Prod.ext_iff, sr.injEq, sr.injEq, h, and_self, ←two_mul]
+        apply u.inv_mul_cancel_left
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:230]: longer but maybe easier to follow
```suggestion
    left_inv := fun
      | ⟨⟨r i, r j⟩, h⟩ => rfl
      | ⟨⟨r i, sr j⟩, h⟩ => by
        simpa [sub_eq_add_neg, neg_eq_iff_add_eq_zero, hu, eq_comm (a := i) (b := 0)] using h.eq
      | ⟨⟨sr i, r j⟩, h⟩ => by
        simpa [sub_eq_add_neg, eq_neg_iff_add_eq_zero, hu, eq_comm (a := j) (b := 0)] using h.eq
      | ⟨⟨sr i, sr j⟩, h⟩ => by
        replace h := r.inj h
        rw [←neg_sub, neg_eq_iff_add_eq_zero, hu, sub_eq_zero] at h
        rw [Subtype.ext_iff, Prod.ext_iff, sr.injEq, sr.injEq, h, and_self, ←two_mul]
        apply u.inv_mul_cancel_left
```

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean (hunk 3 above)
Comment (tb65536) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean]: Oh, this is great! I suspected that there was probably an easier way :)

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 5]
```diff
@@ -204,4 +204,47 @@ theorem exponent : Monoid.exponent (DihedralGroup n) = lcm n 2 := by
       exact (orderOf_sr 0).symm
 #align dihedral_group.exponent DihedralGroup.exponent
 
+/-- If n is odd, then the Dihedral group of order 2n has n*(n+3) pairs of commuting elements. -/
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:207]: Maybe
```suggestion
/-- If n is odd, then the Dihedral group of order $2n$ has $n(n+3)$ pairs (represented as
$n + n + n + n*n$) of commuting elements. -/
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 6]
```diff
@@ -204,4 +204,47 @@ theorem exponent : Monoid.exponent (DihedralGroup n) = lcm n 2 := by
...
+        exact u.inv_mul_cancel_left j
+    right_inv := fun
+      | .inl i => rfl
+      | .inr (.inl j) => rfl
+      | .inr (.inr (.inl k)) =>
+        congrArg (Sum.inr ∘ Sum.inr ∘ Sum.inl) $ two_mul (u⁻¹ * k) ▸ u.mul_inv_cancel_left k
+      | .inr (.inr (.inr ⟨i, j⟩)) => rfl }
+
+lemma card_conjClasses_dihedralGroup_odd (hn : Odd n) :
+    Nat.card (ConjClasses (DihedralGroup n)) = (n + 3) / 2 := by
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:242]: Can you state the fintype version too, for `Fintype.card { p : DihedralGroup n × DihedralGroup n // Commute p.1 p.2 }`?

Comment (tb65536) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:242]: Do you mean `Fintype.card (ConjClasses (DihedralGroup n))`?

Comment (eric-wieser) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:242]: Sorry, I meant:
```lean
Fintype.card { p : DihedralGroup n × DihedralGroup n // Commute p.1 p.2 } = n * (n + 3)
```
IIRC there is already a fintype instance available?

Comment (tb65536) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:242]: One issue is that if `n = 0`, then `DihedralGroup n` is infinite. I could add the lemma, but it would need a typeclass assumption on `n`.

Comment (tb65536) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:242]: Actually, even with `[NeZero n]`, it's still having trouble finding the fintype instance

Comment (tb65536) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:242]: Would you be happy with a `Nat.card` version instead?

Comment (eric-wieser) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:242]: Yes, that's fine. If the `Fintype` instance doesn't exist then don't worry about any Fintype versions (I think the one you added probably isn't useful).
